US07288544B2
3) Synthesis of 2-(t-butyl)-4-(3,5-dichlorophenyl)-6-methyl-N-(3-phenylpropyl)-5-pyrimidinecarboxamide:
100 mg (0.266 mmol) of 2-acetyl-3-(3,5-dichlorophenyl)-N-(3-phenylpropyl) acrylamide was dissolved in 5 ml of DMF. 54.5 mg (0.399 mmol) of t-butyl-carbamidine-hydrochloride and 32.7 mg (0.399 mmol) of sodium acetate were added at room temperature and stirred at 80° C. for one day. After DMF was evaporated under reduced pressure, the reaction mixture was diluted with ethyl acetate and washed with saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=10/1 to 1/1) to obtain the title compound.

reactant | 2-acetyl-3-(3,5-dichlorophenyl)-N-(3-phenylpropyl) acrylamide | 0.266 mmol, 100 mg | C(C)(=O)C(C(=O)NCCCC1=CC=CC=C1)=CC1=CC(=CC(=C1)Cl)Cl | C20H19Cl2NO2
reactant | t-butyl-carbamidine-hydrochloride | 0.399 mmol, 54.5 mg | CC(C)(C)C(=N)N.Cl
reactant | sodium acetate | 0.399 mmol, 32.7 mg | C(C)(=O)[O-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-(t-butyl)-4-(3,5-dichlorophenyl)-6-methyl-N-(3-phenylpropyl)-5-pyrimidinecarboxamide | C(C)(C)(C)C1=NC(=C(C(=N1)C1=CC(=CC(=C1)Cl)Cl)C(=O)NCCCC1=CC=CC=C1)C | C25H27Cl2N3O
